US04666510
Ethoxyamine hydrochloride (0.26 g; 2.7 mmole) and then sodium hydroxide (0.11 g; 2.7 mmole) were added to a solution of 3-hydroxy-5-(2,4,6-trimethyl-3-nitrophenyl)-2-propionylcyclohex-2-en-1-one (0.6 g; 1.8 mmole) in absolute ethanol (150 ml). The mixture was stirred at room temperature for a period of 18 hours and then the ethanol was removed by evaporation under reduced pressure. The residue was treated with dichloromethane and the organic phase was washed twice with water and dried over anhydrous sodium sulfate. The solvent was removed by evaporation under reduced pressure to give the product, 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2,4,6-trimethyl-3-nitrophenyl)cyclohex-2-en-1-one (0.56 g; 83.2%) as a pale yellow oil. The product was characterized by proton nuclear magnetic resonance spectroscopy and the spectroscopic data is recorded in Table 5, Example 37.

reactant | Ethoxyamine hydrochloride | 2.7 mmole, 0.26 g | Cl.C(C)ON
reactant | sodium hydroxide | 2.7 mmole, 0.11 g | [OH-].[Na+]
reactant | 3-hydroxy-5-(2,4,6-trimethyl-3-nitrophenyl)-2-propionylcyclohex-2-en-1-one | 1.8 mmole, 0.6 g | OC1=C(C(CC(C1)C1=C(C(=C(C=C1C)C)[N+](=O)[O-])C)=O)C(CC)=O | C18H21NO5
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)propyl]-3-hydroxy-5-(2,4,6-trimethyl-3-nitrophenyl)cyclohex-2-en-1-one | 0.56 g, 83.2% | C(C)ON=C(CC)C=1C(CC(CC1O)C1=C(C(=C(C=C1C)C)[N+](=O)[O-])C)=O | C20H26N2O5
